US07902417B2
5-Bromo-1,3-dimethoxybenzene (2.13 g, 9.8 mmol), CsF (2.88 g, 19.0 mmol), and Pd(Ph3)4 (0.57-1.13 g, 0.5-1.0 mmol) were weighed into a flame-dried Schlenk flask and put under a flow of argon. THF (80 mL) was added to the flask via syringe, and the resulting suspension was stirred for 30 min at room temperature. Allyl boronic acid pinacol ester (2.96 g, 17.6 mmol) in THF (40 ml) was added and the resulting mixture was heated to reflux for 30 h. Another portion of CsF (2.88 g, 19.0 mmol) and Pd(Ph3)4 (0.57-1.13 g, 0.5-1.0 mmol) were added and the reaction was continued to reflux for 24 h. The reaction mixture was diluted with petroleum ether (100 ml) followed by H2O (100 ml). The layers were separated and the aqueous layer was extracted with petroleum ether (2×80 ml). The combined organic layers were washed with H2O (100 ml), and brine (100 ml). The solution was dried over MgSO4 and evaporated to dryness. The crude product was purified by column chromatography (silica, eluent: hexanes/benzene=3:2) to give 1.60 g (92%) of 5-Allyl-1,3-dimethoxybenzene. 1H NMR (CDCl3): δ 3.33 (d, J=6.7 Hz, 2H, CH2CH═CH2), 3.77 (s, 6H, OCH3), 5.02-5.11 (m, 2H, CH2CH═CH2), 5.89-5.99 (m, 1H, CH2CH═CH2), 6.33-6.38 (m, 3H).

reactant | 5-Bromo-1,3-dimethoxybenzene | 9.8 mmol, 2.13 g | BrC=1C=C(C=C(C1)OC)OC | C8H9BrO2
reactant | CsF | 19.0 mmol, 2.88 g | [F-].[Cs+]
reactant | Allyl boronic acid pinacol ester | 17.6 mmol, 2.96 g | C(C=C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | CsF | 19.0 mmol, 2.88 g | [F-].[Cs+]
reactant | H2O | 100 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 5-Allyl-1,3-dimethoxybenzene | 1.60 g, 92% | C(C=C)C=1C=C(C=C(C1)OC)OC | C11H14O2
